US04654347
[3-[3-(2-Furanylcarbonyl)pyrazolo[1,5-a]pyrimidin-7-yl]phenyl]-N-2-propenylcarbamic acid, ethyl ester
A mixture of 0.01 mole of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-2-propenylcarbamic acid, ethyl ester and 0.01 mole of 3-amino-4-furoylpyrazole in 50 ml of glacial acetic acid is refluxed for 12 hours and the solvent removed in vacuo. The residue is partitioned between aqueous sodium bicarbonate and dichloromethane. The organic layer is separated, dried over anhydrous sodium sulfate and passed through a 2-3 cm thick layer of hydrous magnesium silicate. The filter cake is washed with 2-3 volumes of additional dichloromethane and the filtrate concentrated. Addition of hexane and concentration gives the desired product.

reactant | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-2-propenylcarbamic acid, ethyl ester | 0.01 mole | CN(C=CC(=O)C=1C=C(C=CC1)N(C(OCC)=O)CC=C)C | C17H22N2O3
reactant | 3-amino-4-furoylpyrazole | 0.01 mole | NC1=NNC=C1C(=O)C=1OC=CC1 | C8H7N3O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | [3-[3-(2-Furanylcarbonyl)pyrazolo[1,5-a]pyrimidin-7-yl]phenyl]-N-2-propenylcarbamic acid, ethyl ester | O1C(=CC=C1)C(=O)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)N(C(OCC)=O)CC=C | C23H20N4O4
